US05116863
Methyl 11-(2-dimethylaminoethyl)imino-6,11-dihydrodibenz[b,e]oxepin-2-acetate (Compound 36)
In this example, 22.0 g of methyl 11-oxo-6,11-dihydrodibenz[b,e]oxepin-2-acetate and 68.7 g of N,N-dimethylethylenediamine are dissolved in 700 ml of dried benzene. To the solution is dropwise added a solution of 17.2 ml of titanium tetrachloride in 40 ml of dried benzene and the mixture is stirred at room temperature overnight. A saturated aqueous sodium bicarbonate solution is added thereto. After removing an insoluble solid by filtration, the filtrate is extracted with 500 ml of ethylacetate, washed with saturated aqueous sodium bicarbonate solution and saturated aqueous sodium chloride solution in order, and dried over anhydrous sodium sulfate. The solvent is distilled away under reduced pressure and the residue is purified by column chromatography on silica gel with ethylacetate/triethylamine (10/1) as an eluent to obtain 13.8 g of the desired product as a colorless oily matter.

reactant | methyl 11-oxo-6,11-dihydrodibenz[b,e]oxepin-2-acetate | 22.0 g | O=C1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)CC(=O)OC | C17H14O4
reactant | N,N-dimethylethylenediamine | 68.7 g | CN(CCN)C | C4H12N2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | benzene | 700 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 40 ml | C1=CC=CC=C1 | C6H6
catalyst | titanium tetrachloride | 17.2 ml | [Ti](Cl)(Cl)(Cl)Cl
product | Methyl 11-(2-dimethylaminoethyl)imino-6,11-dihydrodibenz[b,e]oxepin-2-acetate | 13.8 g | CN(CCN=C1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)CC(=O)OC)C | C21H24N2O3
